US07354941B2
(R)-2-[4-(1-Diallylamino-ethyl)-phenyl]-propan-2-ol of Formula (5.0.12)
2.76 g (9.9 mmol) (R)-diallyl-[1-(4-bromo-phenyl)-ethyl]-amine was dissolved in 30 ml THF (dry) under N2 atmosphere. The mixture was then cooled to −78° C. and 5.0 ml (12 mmol) of 2.5M n-BuLi in hexanes was added drop-wise. The mixture was then cooled to −90° C. and acetone was added, while stirring continued at −90° C. for 10 m. The mixture was then allowed to warm to room temperature and the reaction was thereafter quenched with MeOH. Water was then added and the resulting mixture was extracted with ether. The ether extracts were combined; washed with water and brine; dried over MgSO4; and filtered and concentrated in vacuo. Chromatography on silica gel using 15% ethyl acetate/hexanes yielded 1.6 g (64%) of the desired final product.

reactant | (R)-diallyl-[1-(4-bromo-phenyl)-ethyl]-amine | 9.9 mmol, 2.76 g | C(C=C)N([C@H](C)C1=CC=C(C=C1)Br)CC=C | C14H18BrN
reactant | n-BuLi | 12 mmol, 2.5M, 5.0 ml | [Li]CCCC
reactant | acetone | CC(=O)C | C3H6O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (R)-2-[4-(1-Diallylamino-ethyl)-phenyl]-propan-2-ol | 1.6 g, 64% | C(C=C)N([C@H](C)C1=CC=C(C=C1)C(C)(C)O)CC=C | C17H25NO
